US06211234B1
A mixture of ethyl (RS)-4-(2-carbamoyl-5-benzyloxyphenoxy)-4-phenylbutanoate (1.9 g) and acetic anhydride (50 mL) is stirred at reflux for 2 hours. The reaction mixture is evaporated to low bulk and the residue is dissolved in ethyl acetate (50 mL). This solution is washed with aqueous sodium hydrogen carbonate and water, dried, and evaporated. Flash chromatography, eluting with a mixture of cyclohexane and dichloromethane (15:85 v/v), gives ethyl (RS)-4-(2-cyano-5-benzyloxyphenoxy)-4-phenylbutanoate (0.6 g).

reactant | ethyl (RS)-4-(2-carbamoyl-5-benzyloxyphenoxy)-4-phenylbutanoate | 1.9 g | C(N)(=O)C1=C(OC(CCC(=O)OCC)C2=CC=CC=C2)C=C(C=C1)OCC1=CC=CC=C1 | C26H27NO5
solvent | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl (RS)-4-(2-cyano-5-benzyloxyphenoxy)-4-phenylbutanoate | 0.6 g | C(#N)C1=C(OC(CCC(=O)OCC)C2=CC=CC=C2)C=C(C=C1)OCC1=CC=CC=C1 | C26H25NO4
